US05089507
2-(pyrrolidin-1-yl)methyl-4,4-dimethyl piperidine
By reducing 5.4 g (0.027 moles) of 2-(pyrrolidin-1-yl) carbonyl-4,4-dimethyl piperidine with 1.1 g (0.027 moles) of LiAlH4 in 100 ml of dry THF, using an alkaline work-up, 3.8 g of the title compound were obtained.

reactant | 2-(pyrrolidin-1-yl) carbonyl-4,4-dimethyl piperidine | 0.027 moles, 5.4 g | N1(CCCC1)C(=O)C1NCCC(C1)(C)C | C12H22N2O
reactant | LiAlH4 | 0.027 moles, 1.1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(pyrrolidin-1-yl)methyl-4,4-dimethyl piperidine | 3.8 g | N1(CCCC1)CC1NCCC(C1)(C)C | C12H24N2
